US07572805B2
Part B. (±)-trans-Methyl 1-benzyl-4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-3-carboxylate
To a solution of (E)-methyl 3-(3-methoxy-3-oxoprop-1-enyl)-2-naphthoate (1.65 g, 6.09 mmol) in 15 mL of methylene chloride was added trifluoroacetic acid (0.07 mL, 0.91 mmol) and N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (2.34 mL, 9.13 mmol). The reaction mixture was allowed to stir at ambient temperature for 18 h. The solution was concentrated in vacuo and purified (ISCO, elution with 0-25% EtOAc/hexane) to afford 2.1 g (86%) of the title compound as an oil. 1H NMR (CDCl3): δ 8.34 (s, 1H), 8.15 (s, 1H), 7.87-7.80 (m, 2H), 7.58-7.53 (m, 1H), 7.50-7.41 (m, 3H), 7.39-7.33 (m, 2H), 7.30-7.25 (m, 1H), 4.57-4.51 (m, 1H), 3.94 (s, 3H), 3.74 (ABq, 2H), 3.68 (s, 3H), 3.36-3.31 (m, 1H), 3.27-3.20 (m, 1H), 3.07-3.02 (m, 2H), 2.80-2.75 (m, 1H). LRMS (ESI): 404.0 (M+H)+.

reactant | (E)-methyl 3-(3-methoxy-3-oxoprop-1-enyl)-2-naphthoate | 6.09 mmol, 1.65 g | COC(/C=C/C=1C(=CC2=CC=CC=C2C1)C(=O)OC)=O | C16H14O4
reactant | trifluoroacetic acid | 0.91 mmol, 0.07 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 9.13 mmol, 2.34 mL | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-Methyl 1-benzyl-4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-3-carboxylate | 2.1 g, 86% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC2=CC=CC=C2C=C1C(=O)OC)C(=O)OC | C25H25NO4
